US06423699B1
5-(3-Nitro-phenyl)-1,3-dihydro-benzoimidazol-2-one
Prepared from 5-bromo-1,3-dihydro-benzoimidazol-2-one and 3-nitro-phenyl boronic acid in the same fashion as that of Example 5. White solid: mp 324-325° C.; 1H-NMR (DMSO-d6) δ 10.8 (s, 2H), 8.4 (m, 1H), 8.15 (d, 1H, J=7.5 Hz), 8.1 (d, 1H, J=7.5 Hz), 7.7 (t, 1H, J=7.5 Hz), 7.35 (d, 1H, J=7.5 Hz), 7.3 (s, 1H), 7.05 (d, 1H), J=7.5 Hz); MS (ES) m/z 254 ([M−H]−, 100%); Anal. Calc. For C13H9N3O3: C, 61.18, H, 3.55, N, 16.46. Found: C, 60.5, H, 3.69 N, 15.53.

reactant | 5-bromo-1,3-dihydro-benzoimidazol-2-one | BrC1=CC2=C(NC(N2)=O)C=C1 | C7H5BrN2O
reactant | 3-nitro-phenyl boronic acid | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 5-(3-Nitro-phenyl)-1,3-dihydro-benzoimidazol-2-one | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC2=C(NC(N2)=O)C=C1 | C13H9N3O3
